US07504408B2
N-[3-(6-chloro-7-{[6-methoxy-7-(3-morpholin-4-ylpropoxy)quinazolin-4-yl]amino}-1,3-benzodioxol-4-yl)prop-2-yn-1-yl]-N,N′,N′-trimethylurea
This was prepared using the method described in example 26 but it was carried out at room temperature over 3 hr using N-(5-chloro-7-iodo-1,3-benzodioxol-4-yl)-6-methoxy-7-(3-morpholin-4ylpropoxy)quinazolin-4-amine (310 mg, 0.52 mmol), N,N,N′-trimethyl-N′-prop-2-yn-1-ylurea (145 mg, 1.04 mmol), bis(triphenylphosphine) palladium(II) dichloride (36 mg, 10 mol %), copper(I) iodide (10 mg, 10 mol %) and diisopropylamine (105 mg, 1.04 mmol) in ethyl acetate (10 ml). The crude product was purified by column chromatography on silica using increasing concentrations of methanol in dichloromethane as eluent to give the title compound (218 mg, 69%) as a pale brown solid; NMR Spectrum:(CDCl3) 2;11 (quintet, 2H), 2.48 (m, 4H), 2.56 (t, 2H), 2.87 (s, 6H), 2.92 (s, 3H), 3.72 (m, 4H), 4.00 (s, 3H), 4.15 (s, 2H), 4.25 (t, 2H), 6.06 (s, 2H), 7.03 (s, 1H), 7.10-7.30 (s(broad), 1H), 7.20 (s, 1H), 7.31 (s, 1H), 8.60 (s, 1H); Mass Spectrum: M+H+ 611/613.

reactant | N-(5-chloro-7-iodo-1,3-benzodioxol-4-yl)-6-methoxy-7-(3-morpholin-4ylpropoxy)quinazolin-4-amine | 0.52 mmol, 310 mg | ClC1=C(C2=C(OCO2)C(=C1)I)NC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1 | C23H24ClIN4O5
reactant | N,N,N′-trimethyl-N′-prop-2-yn-1-ylurea | 1.04 mmol, 145 mg | CN(C(=O)N(CC#C)C)C | C7H12N2O
reactant | diisopropylamine | 1.04 mmol, 105 mg | C(C)(C)NC(C)C | C6H15N
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
catalyst | bis(triphenylphosphine) palladium(II) dichloride | 36 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
catalyst | copper(I) iodide | 10 mg | [Cu]I
product | N-[3-(6-chloro-7-{[6-methoxy-7-(3-morpholin-4-ylpropoxy)quinazolin-4-yl]amino}-1,3-benzodioxol-4-yl)prop-2-yn-1-yl]-N,N′,N′-trimethylurea | 218 mg, 69% | ClC=1C=C(C2=C(OCO2)C1NC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1)C#CCN(C(=O)N(C)C)C | C30H35ClN6O6
